US08440689B2
A. (3R,4S)-Tetrahydro-2H-pyran-3,4-diyl diacetate
A mixture of (3R,4S)-3,4-dihydro-2H-pyran-3,4-diyl diacetate (8 g, 40 mmol) and Pd/C (10%, 5.0 g) in MeOH was stirred at RT for 12 h under H2 atmosphere (50 psi). After filtration, the residue was concentrated to give the title compound, which was used without further purification (7.5 g). 1H NMR (400 MHz, CDCl3) δ ppm 2.06 (s, 6H), 3.95-4.03 (m, 2H), 4.84 (t, J=4.0 Hz, 1H), 5.15-5.20 (m, 1H), 5.43 (t, J=4.0 Hz, 1H), 6.49 (d, J=4.0 Hz, 1H).

reactant | (3R,4S)-3,4-dihydro-2H-pyran-3,4-diyl diacetate | 40 mmol, 8 g | C(C)(=O)O[C@@H]1COC=C[C@@H]1OC(C)=O | C9H12O5
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 5.0 g | [Pd] | Pd
product | (3R,4S)-Tetrahydro-2H-pyran-3,4-diyl diacetate | C(C)(=O)O[C@@H]1COCC[C@@H]1OC(C)=O | C9H14O5
